US07348318B2
Synthesis of (3S, P (RS))-3-amino-1-amino(phenylcarbamoylamino)phosphinyl-2-piperidone
Palladium black (5 mg) was added to a solution of (3S)-3-benzyloxycarbonylamino-1-amino(phenylcarbamoylamino)phosphinyl-2-piperidone (30 mg, 0.067 mmol) in ethanol (10 mL), and the resulting mixture was stirred at room temperature for 24 hours under a hydrogen atmosphere.

reactant | (3S)-3-benzyloxycarbonylamino-1-amino(phenylcarbamoylamino)phosphinyl-2-piperidone | 0.067 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)N[C@]1(C(N(CCC1)N)=O)P(=O)NC(NC1=CC=CC=C1)=O | C20H24N5O5P
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Palladium black | 5 mg | [Pd] | Pd
product | 3-amino-1-amino(phenylcarbamoylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC(NC1=CC=CC=C1)=O | C12H18N5O3P
